US04066651
A solution of 2-chlorobenzaldehyde (70 g.) and 4-methoxyaniline (61.5g.) in toluene (750 ml.) was refluxed under a Dean and Stark separator until no more water collected (ca. 1 hour). The toluene was evaporated in vacuo, and the residue was dissolved in methanol (1.5 l.). The methanolic solution was treated at room temperature with sodium borohydride (60 g.) added portionwise so that, with gentle cooling, the temperature was maintained at 40°-50° C. The solution was then refluxed for 15 minutes, diluted with water (1.5 l.), and the aqueous mixture extracted with ether (3 × 200ml.). The combined ethereal extracts were washed with water (2 × 100 ml.), dried (K2CO3), and evaporated to give N-(4-methoxyphenyl)-2-chlorobenzylamine as a brown oil, Infra Red ν max 3400, 1618 cm.-1, which was used directly in the next stage.

reactant | 2-chlorobenzaldehyde | 70 g | ClC1=C(C=O)C=CC=C1 | C7H5ClO
reactant | 4-methoxyaniline | 61.5g | COC1=CC=C(N)C=C1 | C7H9NO
reactant | water | O | H2O
solvent | toluene | 750 ml | C1(=CC=CC=C1)C | C7H8
product | N-(4-methoxyphenyl)-2-chlorobenzylamine | COC1=CC=C(C=C1)NCC1=C(C=CC=C1)Cl | C14H14ClNO
